US06858627B2
A round bottom flask equipped with a stir bar was charged with 4-azidomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline (0.565 mmol) and THF (4.2 mL). The system was placed under argon, after which PPh3 (0.621 mmol, 1.1 equiv) and water (0.621 mmol, 1.1 equiv) were added. The reaction was stirred overnight at room temperature. The crude reaction mixture was diluted with ether and filtered through diatomaceous earth until no more precipitate formed. The diatomaceous earth was washed well with ether. The organic layer was acidified with concentrated HCl affording a white fluffy precipitate which then oiled out. This layer was diluted with water and separated from the aqueous layer. The aqueous layer was then neutralized with Na2CO3 and extracted with methylene chloride. The organic extracts were combined and concentrated in vacuo to afford 122 mg of 4-aminomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline.

reactant | 4-azidomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | 0.565 mmol | N(=[N+]=[N-])CC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H20N4O
reactant | THF | 4.2 mL | C1CCOC1 | C4H8O
reactant | PPh3 | 0.621 mmol, 1.1 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | water | 0.621 mmol, 1.1 equiv | O | H2O
solvent | ether | CCOCC | C4H10O
product | 4-aminomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | 122 mg | NCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H22N2O
